US09328096B2
Methyl 2-chloro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A suspension of methyl 2-chloro-5-iodo-4-methylbenzoate (Preparation 48, 1.70 g, 5.47 mmol), bis(pinacolato)diboron (2.80 g, 11.0 mmol), potassium acetate (1.60 g, 16.4 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.40 g, 0.55 mmol) in 1,4 dioxane (30 mL) was heated at 110° C. for 18 hours. The reaction was concentrated in vacuo, slurried in EtOAc (200 mL) and filtered. The filtrate was washed with water (200 mL), dried over magnesium sulfate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-10% EtOAc in heptanes to afford the title compound (1.7 g, quantitative).

reactant | methyl 2-chloro-5-iodo-4-methylbenzoate | 5.47 mmol, 1.70 g | ClC1=C(C(=O)OC)C=C(C(=C1)C)I | C9H8ClIO2
reactant | bis(pinacolato)diboron | 11.0 mmol, 2.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 16.4 mmol, 1.60 g | C(C)(=O)[O-].[K+]
solvent | 1,4 dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.55 mmol, 0.40 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 2-chloro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.7 g | ClC1=C(C(=O)OC)C=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C | C15H20BClO4
